US06140351
N-tert-Butoxycarbonylpiperazine (2.94 g, 16.0 mmol) was dissolved in pyridine (8 mL) under nitrogen and the solution cooled to 0° C. Methanesulfonyl chloride (1.5 mL, 19.3 mmol) was added. After 5 minutes, more pyridine was added (5 mL) and the reaction mixture was allowed to warm to ambient temperature. After 40 minutes, the pyridine was removed in vacuo. The residue was dissolved in ethyl acetate (250 mL), washed with 0.1M citric acid (3×125 mL), dried over magnesium sulfate, concentrated in vacuo, and dried under vacuum to give 3.84 g (92%) of N-tert-butoxycarbonyl-N'-methylsulfonylpiperazine.

reactant | N-tert-Butoxycarbonylpiperazine | 16.0 mmol, 2.94 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | Methanesulfonyl chloride | 19.3 mmol, 1.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | N-tert-butoxycarbonyl-N'-methylsulfonylpiperazine | 3.84 g, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C | C10H20N2O4S
